US04943574
To a stirred solution of 8.75 parts of 4-amino-1-[(4-chloro-3-nitrophenyl)methyl]-1,2,4-triazolium methanesulfonate in 85 parts of a hydrochloric acid solution 1N were added 7.15 parts of phosphinic acid 50%. After cooling in ice, a solution of 3.5 parts of sodium nitrite in 15 parts of water was added. The mixture was stirred for 2 hours at room temperature. An excess of concentrated ammonium hydroxide was added and stirring was continued for 15 minutes. The product was filtered off, washed with water, 2-propanol and 2,2'-oxybispropane and crytallized from 8 parts of 2-propanol. The product was filtered off and dried, yielding 5 parts (83.8%) of 1-[(4-chloro-3-nitrophenyl)methyl]-1H-1,2,4-triazole; mp. 98.9° C. (int. 143).

reactant | 4-amino-1-[(4-chloro-3-nitrophenyl)methyl]-1,2,4-triazolium methanesulfonate | CS(=O)(=O)[O-].NN1C=N[N+](=C1)CC1=CC(=C(C=C1)Cl)[N+](=O)[O-]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | phosphinic acid | [PH2](O)=O | H3O2P
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 1-[(4-chloro-3-nitrophenyl)methyl]-1H-1,2,4-triazole | 83.8% | ClC1=C(C=C(C=C1)CN1N=CN=C1)[N+](=O)[O-] | C9H7ClN4O2
